US06713485B2
5-(4-(4-Phenoxyphenylamino)-quinolin-7-yl)furan-2-carbaldehyde
(4-Phenoxyphenyl)-(7-(5-(1,3-dioxolan-2-yl)furan-2-yl)-quinolin-4-yl)amine (1.4 g) was treated with 1M aqueous hydrochloric acid-tetrahydrofuran (60 ml, 1:1) in accordance with procedure C. Addition of 1 M aqueous sodium hydroxide solution to pH 10 followed by extraction with ethyl acetate, drying (magnesium sulfate) and concentration to dryness afforded a yellow solid (1.2 g); δH [2H6]DMSO 9.70 (1H, s), 9.10 (1H, s), 8.51 (2H, m), 8.35 (1H, s), 8.02 (1H, d), 7.73 (1H, d), 7.57 (1H, d), 7.42 (4H, m), 7.22-7.04 (5H, m), 6.88 (1H, d); m/z 407 (M+1)+.

reactant | (4-Phenoxyphenyl)-(7-(5-(1,3-dioxolan-2-yl)furan-2-yl)-quinolin-4-yl)amine | 1.4 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C=1OC(=CC1)C1OCCO1 | C28H22N2O4
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | hydrochloric acid tetrahydrofuran | 1M, 60 ml | Cl.O1CCCC1
product | 5-(4-(4-Phenoxyphenylamino)-quinolin-7-yl)furan-2-carbaldehyde | 1.2 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C1=CC=C(O1)C=O | C26H18N2O3
